US08748483B2
Synthesis of 6-propyl-4-oxo-4H-pyran-2-carboxylic acid (Example 37)
7.00 g of 4-oxo-24(E)-propenyl)-6-(tetrahydropyran-2-yloxymethyl)-4H-pyran-3-yl trifluoromethanesulfonate were dissolved in 40.8 ml of DMF, and 75.8 mg of palladium(II) acetate, 154 mg of tri-(o-tolyl)-phosphine, 7.07 ml of triethylamine and 0.64 ml of formic acid were added. The reaction mixture was heated at 60° C. for 1 h.

reactant | 6-(tetrahydropyran-2-yloxymethyl)-4H-pyran-3-yl trifluoromethanesulfonate | FC(S(=O)(=O)OC1=COC(=CC1)COC1OCCCC1)(F)F | C12H15F3O6S
reactant | tri-(o-tolyl)-phosphine | 154 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 7.07 ml | C(C)N(CC)CC | C6H15N
reactant | formic acid | 0.64 ml | C(=O)O | CH2O2
reactant | DMF | 40.8 ml | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 75.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-propyl-4-oxo-4H-pyran-2-carboxylic acid | C(CC)C1=CC(C=C(O1)C(=O)O)=O | C9H10O4
